US07709481B2
To an ice cooled solution of 2.0 g 4-Methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazole-5-carbaldehyde (derived from [4-Methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-methanol according to the method described for 4-Methyl-2-(trans-1,4-trifluoromethyl-cyclohexyl)-thiazole-5-carbaldehyde) and 1.09 ml (trifluoromethyl)trimethylsilane in 10 ml tetrahydrofuran were added 100 mg tetrabutylammoniumfluoride. The reaction mixture was stirred at room temperature for thirty minutes. Then 20 ml 2N HCL were added and the mixture stirred at room temperature for thirty minutes. The mixture was extracted three times with portions of 50 ml ethyl acetate. The combined organic layers were dried over MgSO4. The solvent was evaporated in vacuo to obtain 1.5 g 2,2,2-Trifluoro-1-[4-methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-ethanol as a solid.

reactant | 4-Methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazole-5-carbaldehyde | 2.0 g | CC=1N=C(SC1C=O)C=1C=NC(=CC1)C(F)(F)F | C11H7F3N2OS
reactant | [4-Methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-methanol | CC=1N=C(SC1CO)C=1C=NC(=CC1)C(F)(F)F | C11H9F3N2OS
reactant | (trifluoromethyl)trimethylsilane | 1.09 ml | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetrabutylammoniumfluoride | 100 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2,2,2-Trifluoro-1-[4-methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-ethanol | 1.5 g | FC(C(O)C1=C(N=C(S1)C=1C=NC(=CC1)C(F)(F)F)C)(F)F | C12H8F6N2OS
